US04603135
Ethylene bromohydrin (5.4 g) was added dropwise to a mixture of 1-(3-chlorophenyl)piperazine hydrochloride (5 g), potassium carbonate powder (12 g) and N,N-dimethylformamide (35 ml) with stirring. The mixture was further stirred at room temperature overnight, then diluted with 100 ml of water and extracted with ethyl ether. The ethyl ether layer was washed with saturated aqueous sodium chloride and dried over Na2SO4. The solvent was distilled off and the residue was purified by silica gel chromatography [eluent: ethyl acetate-methanol (4:1)] to give 4.06 g (78.6%) of 4-(3-chlorophenyl)-1-piperazineethanol as an oil.

reactant | Ethylene bromohydrin | 5.4 g | C(CO)Br | C2H5BrO
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 5 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-(3-chlorophenyl)-1-piperazineethanol | 4.06 g, 78.6% | ClC=1C=C(C=CC1)N1CCN(CC1)CCO | C12H17ClN2O
